US08420829B2
Preparation of 4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl) -butyric acid methyl ester hydrochloride:
A one-liter Buchi reactor was charged with 20 grams of 4-[(2,4-dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester, 1.0 g of palladium on carbon (dry basis, 10% Pd), and 180 mL of methanol at ambient temperature. The resulting mixture was subjected to hydrogenation at 40 psi overnight (ca. 18 hours) with a hydrogen mass transfer coefficient (kLa) of 0.12 to 0.28. The reaction mixture was filtered through a thin pad of Celite® 540. To the filtrate was added 2.8 mL of concentrated hydrochloric acid (1.1 eq vs. starting material). The resulting mixture was stirred under reflux for 3.5 hours. Approximately ¾ amount of solvent was removed under reduced pressure. Then warm tetrahydrofuran (THF) (150 mL) was added while vigorously stirring. The precipitate was collected by filtration and dried overnight under vacuum to afford a coffee-colored solid (16.1 g, yield 92%) with a purity of 98 Area % by HPLC analysis (HPLC Method B). 1H NMR (400 MHz, DMSO-d6) δ 7.83 (d, J=8.8 Hz, 1H), 7.50 (s, 1H), 7.27 (d, J=8.6 Hz, 1H), 3.91 (s, 3H), 3.58 (s, 3H), 3.17 (t, J=7.7 Hz, 2H), 2.53 (t, J=7.3 Hz, 2H, overlapped partially with DMSO), 2.07 (quint, J=7.5 Hz, 2H); LC/MS (ESI, m/z) 248 (M+1).

reactant | 4-[(2,4-dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester | 20 grams | COC(CCCC(N(C)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O | C13H15N3O7
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2.8 mL, 1.1 eq | Cl | ClH
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 180 mL | CO | CH4O
product | 4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl) -butyric acid methyl ester hydrochloride | 16.1 g, yield 92% | Cl.COC(CCCC1=NC2=C(N1C)C=CC(=C2)N)=O | InChI=1S/C13H17N3O2.ClH/c1-16-11-7-6-9(14)8-10(11)15-12(16)4-3-5-13(17)18-2;/h6-8H,3-5,14H2,1-2H3;1H
